US08168635B2
1-(2′-Methoxy-5′-fluorophenyl)pent-4-en-1-ol:
To a solution of 2-methoxy-5-fluorobenzaldehyde (3.0 g, 19.5 mmol) in THF (20 mL) at 0° C. was added a solution 1-butenylmagnesium bromide (0.5 M in THF, 45 mL, 22.5 mmol) dropwise for 15 min. Then the reaction mixture was poured to a solution of saturated ammonium chloride (80 mL) in a separatory funnel. The organic fraction was extracted with ethyl acetate (3×60 mL) and the combined organic layers were washed with brine (50 mL) and dried over sodium sulfate. The solvent then was removed in vacuo and crude product thus obtained was purified by flash column chromatography (10% EtOAc in hexane, Rf=0.11) to give the product as an oil (3.27 g, 93%).

reactant | 2-methoxy-5-fluorobenzaldehyde | 19.5 mmol, 3.0 g | COC1=C(C=O)C=C(C=C1)F | C8H7FO2
reactant | 1-butenylmagnesium bromide | 22.5 mmol, 0.5 M, 45 mL | C(=CCC)[Mg]Br
reactant | ammonium chloride | 80 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2′-Methoxy-5′-fluorophenyl)pent-4-en-1-ol | 3.27 g, 93% | COC1=C(C=C(C=C1)F)C(CCC=C)O | C12H15FO2
